Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4][O:6][C:7]([H:8])([H:9])[H:10].[H:5],4.00620602127
[O:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:5].[O:1]=[C:2]([C:3](=[C:4])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],4.455777450209999
[C:1].[O:2]=[C:3]([C:4]([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.94987269531
[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-3.36330037624
[C:1][C:2]([H:3])([H:4])[C:5][O:6][H:7]>>[C:1].[C:2]([H:3])([H:4])=[C:5][O:6][H:7],2.3102922076400003
[H:14].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.91125512232
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.44050465193
[H:4].[O:1]1[C:2]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12])[C:3]1>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.63993790901
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.00490313001
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]([H:7])=[C:8]([H:9])[H:10].[C:2]([C:3](=[O:4])[H:5])#[C:6],4.05213818258
[C:2]([H:3])([H:4])=[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-1.9439786594
[C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-6.17376967479
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14],-2.32405195259
[C:2][C:3]([H:4])([H:5])[H:6].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[H:6],-8.07053814555
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2],6.4231447413
[H:5].[O:1][O:2][C:3]([H:4])[C:6]#[C:7][C:8]([H:9])[H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],-2.39384067262
[C:5]=[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.60738129753
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],3.71968253398
[C:1][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[C:2]#[C:3]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-7.74368637406
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.89891841809
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])#[C:7][H:8].[H:1][C:2]([C:3]([H:4])[C:11]([H:12])([H:13])[H:14])([H:9])[H:10],1.32775038288
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]2[O:7][C@:8]12[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9],1.05921767766
[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-1.40986186878
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.2277051938300003
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],1.85879463539
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:6]=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5],1.70853885201
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.78737719477
[H:11].[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]1>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1,-2.41907537824
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],3.5073799031
